US04687599
1,1-dimethoxy-pent-4-yn-5-yl magnesium bromide was prepared in situ from ethyl magnesium bromide and 1,1-dimethoxy-4-pentyne. The latter was prepared as follows:

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | 1,1-dimethoxy-4-pentyne | COC(CCC#C)OC | C7H12O2
product | 1,1-dimethoxy-pent-4-yn-5-yl magnesium bromide | COC(CCC#C[Mg]Br)OC | InChI=1S/C7H11O2.BrH.Mg/c1-4-5-6-7(8-2)9-3;;/h7H,5-6H2,2-3H3;1H;/q;;+1/p-1
